US05342846
1 -Cyclopropyl-6,8-difluoro-7-[3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (150 mg, 0.53 mmol), 3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (252 mg, 1.05 mmol) and diazobicycloundecane (160 mg, 1.05 mmol) in pyridine (5 ml) was heated at 110° C. for 20 hrs, concentrated and diluted with water. The separated solid was filtered, washed with water and crystallized from methanol. Yield: 55 mg (22.3%), m.p. 241.4° C. 1H NMR (TFA) δ: 1.34-1.73 (m, 4H), 2.82-3.09 (m, 2H), 4.20-4.95 (m, 5H), 5.73-5.92 (m, 1H), 7.5-7.92 (m, 4H), 8.15 (d, 1H), 8.80 (s, 1H), 9.30 (s, 1H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.53 mmol, 150 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.05 mmol, 252 mg | Cl.C1(=CC=CC=C1)C=1N=NN(C1)C1CNCC1
reactant | diazobicycloundecane | 1.05 mmol, 160 mg | [N+](=[N-])=C1C(CCCCCCCCC1)C1CCCCCCCCCC1 | C22H40N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1 -Cyclopropyl-6,8-difluoro-7-[3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC(=C1)C1=CC=CC=C1)F)=O)C(=O)O | C25H21F2N5O3
